** sch_path: /home/celina/repo4tesis/sky130_ef_ip__opamp/xschem/sky130_ef_ip__opamp.sch
.subckt sky130_ef_ip__opamp vdd out ena vss inp inm
*.PININFO vdd:I vss:I out:O inm:I inp:I ena:I
XM4 pdrv1 net1 vdd vdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=2 m=1
XM5 vdd net1 net1 vdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=2 m=1
XM9 vcomn1 nbias vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM10 vss nbias nbias vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=4 nf=4 m=1
XR1 net4 vdd vss sky130_fd_pr__res_xhigh_po_0p35 W=1 L=100 mult=1 m=1
XM20 out pdrv1 vdd vdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=200 nf=200 m=1
XM22 out ndrv vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=120 nf=120 m=1
XM24 pbias nbias vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM25 vdd pbias pbias vdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM26 vcomp pbias vdd vdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=2 m=1
XM27 net2 inm vcomp vdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=2 m=1
XM28 vcomp inp ndrv vdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=2 m=1
XM29 ndrv net2 vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM30 vss net2 net2 vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM1 net1 inm vcomn1 vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM2 vcomn1 inp pdrv1 vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM3 pdrv2 net3 vdd vdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=2 m=1
XM6 vdd net3 net3 vdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=2 m=1
XM7 vcomn2 nbias vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM8 net3 inm vcomn2 vss sky130_fd_pr__nfet_03v3_nvt L=0.5 W=1 nf=1 m=1
XM11 vcomn2 inp pdrv2 vss sky130_fd_pr__nfet_03v3_nvt L=0.5 W=1 nf=1 m=1
XM12 vdd pdrv2 out vdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=200 nf=200 m=1
XDD1 vss inp sky130_fd_pr__diode_pw2nd_05v5 area=3.6e11 perim=4e6
XM13 net4 ena nbias vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XDD2 vss ena sky130_fd_pr__diode_pw2nd_05v5 area=3.6e11 perim=4e6
XDD3 vss inm sky130_fd_pr__diode_pw2nd_05v5 area=3.6e11 perim=4e6
.ends
.end
